US04673684
To a solution of 794 mg (2.68 mmol) of N-(2-benzhydroxyethyl)piperazine in dry dimethylformamide (4 ml) was added, under argon atmosphere, a solution of 1.15 g (2.61 mmol) of N[5-[3,5-dimethoxy-4-(β-methoxyethoxymethoxy)phenyl]-2,4-pentadienoyl)thiazolidine in dry dimethylformamide (4 ml), and the mixture was allowed to react at room temperature for 17 hours. At the end of this time, the reaction mixture was concentrated by evaporation under reduced pressure and the residue was subjected to silica gel column chromatography, eluted with chloroform-methanol (100:1), to give 413 mg (0.670 mmol) of N-[5-[3,5-dimethoxy-4-(β-methoxyethoxymethoxy)phenyl]-2,4-pentadienoyl]-N'-(2-benzhydroxyethyl)piperazine.

reactant | N-(2-benzhydroxyethyl)piperazine | 2.68 mmol, 794 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)OCCN1CCNCC1 | C19H24N2O
reactant | N[5-[3,5-dimethoxy-4-(β-methoxyethoxymethoxy)phenyl]-2,4-pentadienoyl)thiazolidine | 2.61 mmol, 1.15 g | COC=1C=C(C=C(C1OCOCCOC)OC)C=CC=CC(=O)N1CSCC1 | C20H27NO6S
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | N-[5-[3,5-dimethoxy-4-(β-methoxyethoxymethoxy)phenyl]-2,4-pentadienoyl]-N'-(2-benzhydroxyethyl)piperazine | 0.670 mmol, 413 mg | COC=1C=C(C=C(C1OCOCCOC)OC)C=CC=CC(=O)N1CCN(CC1)CCOC(C1=CC=CC=C1)C1=CC=CC=C1 | C36H44N2O7
